Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])=[C:5]([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13].[H:1][O:2],6.1191543199
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.57796789378
[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.72363737714
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([O:3][C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.44659780984
[C:10]([H:11])[O:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-6.60770285578
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],4.9705072764
[C:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],6.38088074618
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([O:7])([H:8])[H:9],2.3941642679400004
[C:1]=[C:2]([H:3])[C:4]([O:5][O:6])=[C:7]([H:8])[H:9].[H:10]>>[C:1]/[C:2]([H:3])=[C:4](\[O:5][O:6])[C:7]([H:8])([H:9])[H:10],-3.13887714449
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[O:1][O:2][C:3]([H:4])=[C:5][H:6],7.19323214118
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8][H:9],1.96809661744
[C:4]([H:5])[H:6].[H:1][O:2]/[C:3]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-6.50873484509
[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.57625968516
[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],0.1054166304499999
[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.62832859149
[H:11].[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-2.74117107767
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8](=[O:9])[O:10][H:11],0.90767742134
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.46346963828
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.7581893734400023
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.43225236687
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11][H:12],5.14465160042
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:10]([H:11])([H:12])[H:13],3.67545976371
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[O:9][C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15],3.03372660076
[C:1]#[C:2].[C:3]([H:4])[O:5][O:6]>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6],-6.94505056096
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]#[C:5][H:6].[H:1][C:2]([C:3][C:9]([H:10])([H:11])[H:12])([H:7])[H:8],6.706483234609999
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-8.372800994219999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:8]#[C:9][H:10].[H:1][C:7]([H:11])[H:12],5.75637290087
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.67837080207
[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-8.40171229493
